US07956064B2
Methyl 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate (1.0 eq, 618 mg, 2.38 mmol) was suspended in 10 ml of a mixture of MeOH, THF, and water (1:1:1, v:v:v). LiOH (2.0 eq, 114 mg, 4.76 mmol) was added and the mixture was stirred at room temperature for 2 hours. An additional amount of LiOH (114 mg) was added and the mixture was stirred for an hour. LiOH (50 mg) was added and the mixture stirred for an additional 2 hours. Water was added and the solution filtered through a pad of celite. The pad of celite was thoroughly washed with aqueous 1 N NaOH. The solution was acidified with 6 N aqueous HCl to induce precipitation of the expected material. Filtration and drying afforded 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylic acid as a yellow solid (562 mg, 96% yield). LCMS (ES): 95% pure, m/z 246 [M+1]+; 1H NMR (DMSO-d6, 400 MHz) δ 7.61 (d, J=5.2, 1H), 7.73 (dd, J=1.6, J=8.0, 1H), 7.88 (d, J=5.6, 1H), 7.92 (d, J=8.4, 1H), 8.02 (d, J=1.6, 1H), 11.92 (s, 1H), 13.21 (br. s, 1H) ppm.

reactant | Methyl 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate | 2.38 mmol, 618 mg, 1.0 eq | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C(=O)OC | C13H9NO3S
reactant | MeOH | CO | CH4O
reactant | THF | C1CCOC1 | C4H8O
reactant | LiOH | 4.76 mmol, 114 mg, 2.0 eq | [Li+].[OH-]
reactant | LiOH | 114 mg | [Li+].[OH-]
reactant | LiOH | 50 mg | [Li+].[OH-]
solvent | Water | O | H2O
product | 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylic acid | 562 mg, 96% yield | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C(=O)O | C12H7NO3S
